US06049006
N-[2-[(Aminothioxomethyl)hydrazono]-2-phenylethyl]cyclohexanecarboxamide
Thiosemicarbazide (2.23 g, 24.5 mmol) was added to a solution of cyclohexane carboxylic acid (2-oxo-2-phenyl-ethyl)-amide (6.0 g, 24.5 mmol), prepared in the previous step, in 87 ml of methanol plus 6.75 ml of 1N HCl plus 6.25 ml of water and the reaction stirred at room temperature for 4 days. The solvent was removed under reduced pressure to give 8.2 g of a green oil which was chromatographed on 400 g of silica gel (230-400 mesh) using ethyl acetate-methylene chloride as the eluent. The material isolated was recrystallized from isopropyl alcohol to give the title compound (3.55 g, 46%) as a white solid, mp 104-110° C.

reactant | Thiosemicarbazide | 24.5 mmol, 2.23 g | NNC(=S)N | CH5N3S
reactant | cyclohexane carboxylic acid (2-oxo-2-phenyl-ethyl)-amide | 24.5 mmol, 6.0 g | O=C(CNC(=O)C1CCCCC1)C1=CC=CC=C1 | C15H19NO2
reactant | HCl | 1N, 6.75 ml | Cl | ClH
reactant | water | 6.25 ml | O | H2O
solvent | methanol | 87 ml | CO | CH4O
product | N-[2-[(Aminothioxomethyl)hydrazono]-2-phenylethyl]cyclohexanecarboxamide | 8.2 g | NC(=S)NN=C(CNC(=O)C1CCCCC1)C1=CC=CC=C1 | C16H22N4OS
